US08648087B2
Step D: Preparation of 4-(benzo[d]oxazol-5-yloxy)-3-methylbenzenamine:
To a solution of 5-(2-methyl-4-nitrophenoxy)benzo[d]oxazole (1.65 g, 6.12 mmol) in ethanol was added Pd/C (0.130 g, 0.122 mmol). After stirring under hydrogen atmosphere for 16 hours, the mixture was filtered and the filtrate was concentrated to provide the product (0.81 g, 55%) as yellow oil.

reactant | 5-(2-methyl-4-nitrophenoxy)benzo[d]oxazole | 6.12 mmol, 1.65 g | CC1=C(OC=2C=CC3=C(N=CO3)C2)C=CC(=C1)[N+](=O)[O-] | C14H10N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.122 mmol, 0.130 g | [Pd] | Pd
product | 4-(benzo[d]oxazol-5-yloxy)-3-methylbenzenamine | 0.81 g, 55% | O1C=NC2=C1C=CC(=C2)OC2=C(C=C(C=C2)N)C | C14H12N2O2
